US06313299B1
7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6-fluoro-8-chloro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid.
300 mg of 1cyclopropyl-6,7-difluoro-8-chloro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid, 530 mg of t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate and 2 g of Amberlite® IRA-420 were added to 10 ml of acetonitrile and thereto 1 ml of triethylamine was added by dropping. The resulting mixture was refluxed for 72 hours and then the resulting solid was filtered off. The filtrate was concentrated under the reduced pressure and thereto 10 ml of ethylacetate was added and the resulting solution was stirred for 4 hours. The precipitated solid was filtered and dried to give 169 mg of the titled compound(yield: 31.4%).

reactant | 1cyclopropyl-6,7-difluoro-8-chloro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 300 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O | C13H8ClF2NO3
reactant | t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate | 530 mg | CON=C1CNCC12CN(C2)C(=O)OC(C)(C)C | C12H21N3O3
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6-fluoro-8-chloro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 169 mg, yield: 31.4% | C(C)(C)(C)OC(=O)N1CC2(C1)CN(CC2=NOC)C2=C(C=C1C(C(=CN(C1=C2Cl)C2CC2)C(=O)O)=O)F | C25H28ClFN4O6
